US09388167B2
4-Chloro-5-fluoro-6-vinyl pyrimidine, Alternative Route
To a solution of N-isopropyl-N-methylenepropan-2-aminium chloride (13.3 g, 88.7 mmol) in acetonitrile (55 mL) was added 4-chloro-5-fluoro-6-methylpyrimidine (10.0 g, 68.2 mmol). The reaction flask was flushed with argon and the mixture was heated at reflux for 24 hours with stirring, then cooled to room temperature. Water (130 mL) was added and the mixture was extracted with dichloromethane (140 mL). The organic phase was washed with 10% aqueous KHSO4 (400 mL) and dried over Na2SO4. The solution was filtered and evaporated in vacuo at 300 millibar pressure and 35° C. tert-Butylcatechol (30 mg, 0.2 wt %, based on the mass of the crude material) was added. Residual solvent was removed under vacuum at 50° C. and the crude product was then distilled at 5 millibar pressure and 50° C. (oil bath). tert-Butylcatechol (0.1 wt %) was added to the distilled 4-chloro-5-fluoro-6-vinyl pyrimidine (7.9 g, 73%) which was obtained as a slightly yellow oil.

reactant | N-isopropyl-N-methylenepropan-2-aminium chloride | 88.7 mmol, 13.3 g | [Cl-].C(C)(C)[N+](C(C)C)=C
reactant | 4-chloro-5-fluoro-6-methylpyrimidine | 68.2 mmol, 10.0 g | ClC1=NC=NC(=C1F)C | C5H4ClFN2
solvent | acetonitrile | 55 mL | C(C)#N | C2H3N
product | 4-Chloro-5-fluoro-6-vinyl pyrimidine | ClC1=NC=NC(=C1F)C=C | C6H4ClFN2
